US06140326
Preparation of N-(2-hydroxyethyl)-3,3,5,5-tetramethyl-2-morpholinone
45.0 g (0.29 moles) of 3,3,5,5-tetramethyl-2-morpholone are dissolved in 450 ml of methanol. The solution is poured into an autoclave, added with 1 ml of concentrated HCl (37%) (% w/w) and pressurized with ethylene oxide (2 bars).

reactant | 3,3,5,5-tetramethyl-2-morpholone | 0.29 moles, 45.0 g | CC1(NC(COC1=O)(C)C)C | C8H15NO2
reactant | HCl | 1 ml | Cl | ClH
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | methanol | 450 ml | CO | CH4O
product | N-(2-hydroxyethyl)-3,3,5,5-tetramethyl-2-morpholinone | OCCN1C(C(OCC1(C)C)=O)(C)C | C10H19NO3
